US09212182B2
A screw cap vial was charged with (E)-ethyl 3-(2-amino-5-bromo-4-fluorophenyl)acrylate (4.00 g, 13.88 mmol), xantphos (0.402 g, 0.694 mmol)9), tris(dibenzylideneacetone)dipalladium (0.318 g, 0.347 mmol), 1,4-Dioxane (13.9 ml), and DIPEA (4.83 ml, 27.8 mmol). The vial was purged with Argon, sealed and heated to 80° C. for 10 minutes. The reaction was cooled to RT and benzyl mercaptan (1.724 ml, 14.58 mmol) was added and the reaction was continued heating at 80° C. for an additional 90 minutes. The reaction was cooled to RT, diluted with water and extracted with DCM (3×). The combined organics were washed with water and brine, dried over magnesium sulfate, filtered and concentrated. The resulting material was concentrated, dissolved in minimal DCM and purified via column chromatography (silica gel 40 g, gradient elution 0 to 50% EtOAc:Heptane) to afford (E)-ethyl 3-(2-amino-5-(benzylthio)-4-fluorophenyl)acrylate (2.75 g, 8.30 mmol, 59.8% yield). m/z (ESI) 332.1 (M+H)+.

reactant | (E)-ethyl 3-(2-amino-5-bromo-4-fluorophenyl)acrylate | 13.88 mmol, 4.00 g | NC1=C(C=C(C(=C1)F)Br)/C=C/C(=O)OCC | C11H11BrFNO2
reactant | 1,4-Dioxane | 13.9 ml | O1CCOCC1 | C4H8O2
reactant | DIPEA | 27.8 mmol, 4.83 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | benzyl mercaptan | 14.58 mmol, 1.724 ml | C(C1=CC=CC=C1)S | C7H8S
solvent | water | O | H2O
catalyst | tris(dibenzylideneacetone)dipalladium | 0.347 mmol, 0.318 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | xantphos | 0.694 mmol, 0.402 g | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
product | (E)-ethyl 3-(2-amino-5-(benzylthio)-4-fluorophenyl)acrylate | 8.30 mmol, 2.75 g, 59.8% yield | NC1=C(C=C(C(=C1)F)SCC1=CC=CC=C1)/C=C/C(=O)OCC | C18H18FNO2S
